US06916812B2
(±)-N-Methyl-O-(phenylmethyl)tyrosine,1-[4-(2,3-dichlorophenyl)methyl]piperazine amide
To a suspension of NaH in THF (5 mL) cooled to 0° C. was added dropwise a solution of N-(tert-butyloxycarbonyl)-O-(phenylmethyl)-L-tyrosine, 1-[4-(2,3-dichlorophenyl)methyl]piperazine amide (N-Boc derivative of Example 159) (339 mg, 1.0 equiv). Methyl iodide (402 mg, 5 equiv) was then added to the reaction mixture via syringe. After the reaction was stirred at 0° C. for 30 minutes, it was warmed up to room temperature and stirred for 3 hours. An excess of methyl iodide and NaH was added to the reaction mixture (to achieve approximately 70% conversion) over 48 hours. After aqueous work up, the mixture was directly treated with HCl/Et2O in MeOH to afford the racemized titled product along with racemized O-(phenylmethyl)-L-tyrosine, 1-[4-(2,3-dichlorophenyl)methyl]piperazine amide (wherein the amine was not methylated). The mixture was then stirred with polymer bound benzaldehyde resin and filtered, thereby removing the racemized O-(phenylmethyl)-L-tyrosine, 1-[4-(2,3-dichlorophenyl)methyl]piperazine amide. The filtrate was concentrated in vacuo and the residue was further purified by preparative HPLC to afford the racemic titled compound, bis trifluoroacetic acid salt (100 mg) as a colorless oil (HPLC purity:100%): MS Calcd for [C28H31Cl2N3O2+H]+: 512. found: 512.

reactant | NaH | [H-].[Na+]
reactant | N-(tert-butyloxycarbonyl)-O-(phenylmethyl)-L-tyrosine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O | C21H25NO5
reactant | Methyl iodide | 402 mg, 5 equiv | CI | CH3I
reactant | HCl Et2O | Cl.CCOCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | O-(phenylmethyl)-L-tyrosine | C1(=CC=CC=C1)COC1=CC=C(C[C@H](N)C(=O)O)C=C1 | C16H17NO3
